US08119801B2
To 2.11 g of 4-[(4,6-dichloro-2-pyrimidinyl)amino]benzonitrile (0.00796 mol) was added 500 ml of CHCl3 and the mixture was stirred for 30 minutes to allow the dissolution of almost all of starting compound. 1-bromo-2,5-pyrrolidinedione (0.0397 mol) was added in one portion and the reaction mixture was stirred at room temperature. After about 30 minutes, the mixture became a clear orange solution and the reaction became increasingly reddish with time. After 40 hours, TLC and HPLC/MS showed the reaction was complete. The reaction mixture was purified by flash silica gel column chromatography using CH2Cl2 as eluent. The fractions containing the desired product were isolated and the solvent evaporated. The residue was recrystallized from acetonitrile to afford 1.51 g of 4-[(5-bromo-4,6-dichloro-2-pyrimidinyl)amino]benzonitrile, yield 55% (intermediate 1).

reactant | 4-[(4,6-dichloro-2-pyrimidinyl)amino]benzonitrile | 0.00796 mol, 2.11 g | ClC1=NC(=NC(=C1)Cl)NC1=CC=C(C#N)C=C1 | C11H6Cl2N4
reactant | 1-bromo-2,5-pyrrolidinedione | 0.0397 mol | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CHCl3 | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[(5-bromo-4,6-dichloro-2-pyrimidinyl)amino]benzonitrile | 1.51 g, yield 55% | BrC=1C(=NC(=NC1Cl)NC1=CC=C(C#N)C=C1)Cl | C11H5BrCl2N4
